US04217360
(c) (1S,5R,6R,7R)-6-[(E)-3-Oxo-3-({2RS}-1,3-benzodioxan-2-yl)-1-propenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one
Under an argon atmosphere, 7 g. of (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one, E. J. Corey et al., J. Amer. Chem. Soc. 91, 5675 (1969), and 11.2 g. of [2-oxo-2-(1,3-benzodioxan-2-yl)-ethylidene]-triphenylphosphorane were agitated at room temperature for 16 hours in 300 ml. of benzene. The reaction mixture was then evaporated to dryness under vacuum. The residue was purified by column chromatography on silica gel with hexane/20-60% ethyl acetate as the eluent. Yield: 5 g. of an oil.

reactant | (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | C(=O)[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C15H14O5
reactant | [2-oxo-2-(1,3-benzodioxan-2-yl)-ethylidene]-triphenylphosphorane | O=C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCC2=C(O1)C=CC=C2 | C28H23O3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (1S,5R,6R,7R)-6-[(E)-3-Oxo-3-({2RS}-1,3-benzodioxan-2-yl)-1-propenyl]-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | O=C(/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C1OCC2=C(O1)C=CC=C2 | C25H22O7
